US04886822
13.09 g of 4-Bromoanisole was dissolved in 50 ml of tetrahydrofuran, and the solution was cooled to -78° C. with a dry ice-acetone freezing mixture, and 48 ml of m-butyllithium (as a 1.6 M hexane solution). The mixture was stirred for 10 minutes. A tetrahydrofuran solution of 32 ml of triisopropyl borate was added dropwise under cooling over the course of 30 minutes. The temperature of the solution was returned to room temperature, and it was stirred for 10 minutes. Ether was added to the reaction solution, and it was washed with a 10% aqueous solution of hydrochloric acid and water in this order. The solvent was evaporated, and the resulting solid was recrystallized from ether-hexane to give 7.18 g (yield 67.5%) of (4-methoxyphenyl)boric acid as colorless needles having a melting point of 157° to 159° C.

reactant | 4-Bromoanisole | 13.09 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | hexane | 1.6 M | CCCCCC | C6H14
reactant | triisopropyl borate | 32 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | Ether | CCOCC | C4H10O
product | (4-methoxyphenyl)boric acid | 7.18 g, yield 67.5% | COC1=CC=C(C=C1)OB(O)O | C7H9BO4
